US07759369B2
(6-Cyano-3-methyl-2-pyridinyl)methyl acetate
To acetic anhydride (12 ml) at 120° C. was added 5,6-dimethyl-2-pyridine-carbonitrile 1-oxide (3.02 g) and the solution heated at 120° C. for 5 minutes then under reflux for 2.5 hours. After cooling the solution was added to ice (ca. 80 g) and the mixture neutralized with sodium bicarbonate. It was extracted with ether (80 ml then 2×40 ml) and the combined extracts washed with brine (40 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by Biotage chromatography eluting with 2:1 hexane:ethyl acetate to afford the title compound (2.60 g, 67%) as a pale yellow solid. LC/MS [MH+]=191, RT=2.05 min.

reactant | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5,6-dimethyl-2-pyridine-carbonitrile 1-oxide | 3.02 g | CC1=CC=C([N+](=C1C)[O-])C#N | C8H8N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (6-Cyano-3-methyl-2-pyridinyl)methyl acetate | 2.60 g, 67% | C(C)(=O)OCC1=NC(=CC=C1C)C#N | C10H10N2O2
